US04954131
Preparation of N-methyl-N-(2-hydroxy-4-nitrophenoxyethyl)acetamide
0.1 mol (16.7 g) of 3,4-methylenedioxynitrobenzene is introduced into 67 ml of N-methyl-N-acetylethanolamine. The mixture is heated to the region of 100° C., with stirring, and 11 ml of 15N potassium hydroxide solution are then added. After stirring for 4 hours at 100° C., the reaction medium is poured onto 200 g of crushed ice. The unreacted starting material, which is insoluble in an alkaline medium, is removed by filtration. The filtrate is then brought to a pH of 5 with hydrochloric acid. The expected nitro product which has precipitated is filtered off. After washing with water, drying and recrystallization from a 50/50 ethyl acetate/ethanol mixture, the product melts at 158° C.

reactant | 3,4-methylenedioxynitrobenzene | 0.1 mol, 16.7 g | C1OC=2C=C(C=CC2O1)[N+](=O)[O-] | C7H5NO4
reactant | N-methyl-N-acetylethanolamine | 67 ml | CN(CCO)C(C)=O | C5H11NO2
product | N-methyl-N-(2-hydroxy-4-nitrophenoxyethyl)acetamide | CN(C(C)=O)CCOC1=C(C=C(C=C1)[N+](=O)[O-])O | C11H14N2O5
